US08445424B2
A solution of 2,2-dimethylcyclopentanone (10.1 g, 90.0 mmol) in THF (200 ml) was added at −70° C. within 30 min to a stirred solution of lithium diisopropylamide (2 M in THF, 45.0 ml, 90.0 mmol). After 15 min of stirring at −70° C., chlorotrimethylsilane (19.6 g, 180 mmol) was added dropwise over a period of 10 min. The reaction mixture was allowed to warm to 0° C., stirred for 1 h at this temperature and 2 h at room temp. The formed suspension was filtered off by suction with the aid of a sintered funnel and washed with Et2O (100 ml), and the filtrate was concentrated under reduced pressure. Then, a solution of titanium tetrachloride (17.1 g, 90 mmol) in CH2Cl2 (30 ml) was added within 10 min at −60° C. to a solution of the obtained silyl enol ether (16.8 g, 88.9 mm0l) and 2-chloro-2-methylpropane (8.80 g, 95.0 mmol) in CH2Cl2 (200 ml). After stifling for further 30 min at −60° C., the reaction mixture was allowed to warm up to 0° C., quenched with H2O (500 ml) and extracted with Et2O (3×400 ml). The combined organic extracts were washed with 10% aq. NaHCO3 solution (2×150 ml) and brine (2×100 ml), dried (Na2SO4), and the solvent was evaporated on a rotary evaporator. The resulting residue was purified by silica gel FC (pentane/Et2O, 98:2, Rf=0.27) to provide 5-tert-butyl-2,2-dimethylcyclopentanone (13.8 g, 91%) as a colourless liquid. IR (neat): v=1722 (s, vC═O), 1463 [m, δas(CH3)], 1361 [m, δs(CH3)] cm−1. 1H NMR (CDCl3): δ=0.92/1.05 (2s, 6 H, 2-Me2), 0.99 (s, 9 H, 1′-Me3), 1.51-1.59 (m, 1 H, 5-H), 1.64-1.80 (m, 2 H, 3-Hax, 4-Hax), 1.92-2.15 (m, 2 H, 3-Heq, 4-Heq) ppm. 13C NMR (CDCl3): δ=22.3 (t, C-4), 23.0/24.8 (2q, 2-Me2), 27.8 (q, 1′-Me3), 32.3 (s, C-1′), 35.8 (t, C-3), 45.7 (s, C-2), 223.5 (s, C-1) ppm. MS (EI): m/z (%)=168 (24) [M]+, 153 (11) [M-CH3]+, 112 (100) [M-C4H8]+, 111 (52) [M-C4H9]+, 57 (45) [C4H9]+.

reactant | 2,2-dimethylcyclopentanone | 90.0 mmol, 10.1 g | CC1(C(CCC1)=O)C | C7H12O
reactant | lithium diisopropylamide | 90.0 mmol, 2 M, 45.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | chlorotrimethylsilane | 180 mmol, 19.6 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-chloro-2-methylpropane | 95.0 mmol, 8.80 g | ClC(C)(C)C | C4H9Cl
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 90 mmol, 17.1 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5-tert-butyl-2,2-dimethylcyclopentanone | 13.8 g, 91% | C(C)(C)(C)C1CCC(C1=O)(C)C | C11H20O
